US04598148
9,10-Dimethoxy-2-(2,6-dimethylanilino)-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one
A solution of 9,10-dimethoxy-2-chloro-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one (2.5 g), 2,6-dimethylaniline (5.0 ml) in butanol (20.0 ml) is heated under reflux for 10 hours. The solvent is evaporated under reduced pressure to give a gummy mass. Chromatography of the gummy mass over silica gel using benzene-ethyl acetate as the eluant gives the required product. The compound is crystallized from methanol, yield 2.0 g, m.p. 297°-299° C.

reactant | 9,10-dimethoxy-2-chloro-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one | 2.5 g | COC=1C=C2CCN3C(C2=CC1OC)=CC(=NC3=O)Cl | C14H13ClN2O3
reactant | 2,6-dimethylaniline | 5.0 ml | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | benzene ethyl acetate | C1=CC=CC=C1.C(C)(=O)OCC
solvent | butanol | 20.0 ml | C(CCC)O | C4H10O
product | 9,10-Dimethoxy-2-(2,6-dimethylanilino)-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one | COC=1C=C2CCN3C(C2=CC1OC)=CC(=NC3=O)NC3=C(C=CC=C3C)C | C22H23N3O3
